US08466201B2
To a stirred solution of 2-(tert-butyldiphenyl-silanyloxy)-ethylamine (0.76 g, 2.54 mmol) in dichloromethane (15 ml) and pyridine (0.21 ml, 2.54 mmol) at room temperature was added 3-nitro-alpha-toluenesulfonyl chloride (0.50 g, 2.12 mmol) in one portion and the reaction stirred overnight. The reaction was diluted with dichloromethane (35 ml), washed with aqueous copper sulfate and brine, dried over sodium sulfate and concentrated to give a crude product. The crude N-[2-(tert-butyldiphenyl-silanyloxy)-ethyl]-C-(3-nitrophenyl)-methanesulfonamide (theoretical 1.06 g, 2.13 mmol) was dissolved in methanol (30 ml) and placed under an atmosphere of nitrogen prior to the addition of 10% Pd/C (10 Wt %, 100 mg) in one portion. The reaction mixture was evacuated, placed under an atmosphere of hydrogen (1 bar) and stirred vigorously overnight. The reaction was filtered through celite and the filtrate was concentrated in vacuo to afford the crude reduced product. The crude C-(3-aminophenyl)-N-[2-(tert-butyldiphenylsilanyloxy)-ethyl]methanesulfonamide obtained above (theoretical 0.996 g) was dissolved in tetrahydrofuran (20 ml) and a 1M solution of tetrabutlyammonium fluoride in tetrahydrofuran (2.34 ml, 2.34 mmol) was added in one portion. The reaction was stirred at room temperature for 2 h then diluted with ethyl acetate (30 ml) and brine (30 ml), the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The crude mixture was purified by column chromatography using dichloromethane:methanol as eluent to give the named product (0.411 g, 84% over 3 steps); Rf (DCM:MeOH 95:5) 0.06; LCMS Rt=0.83 min, m/z (ES−) 229 (M−H).

reactant | 2-(tert-butyldiphenyl-silanyloxy)-ethylamine | 2.54 mmol, 0.76 g | C(C)(C)(C)[Si](OCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H25NOSi
reactant | pyridine | 2.54 mmol, 0.21 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-nitro-alpha-toluenesulfonyl chloride | 2.12 mmol, 0.50 g | [N+](=O)([O-])C=1C=C(C=CC1)CS(=O)(=O)Cl | C7H6ClNO4S
reactant | N-[2-(tert-butyldiphenyl-silanyloxy)-ethyl]-C-(3-nitrophenyl)-methanesulfonamide | 2.13 mmol, 1.06 g | C(C)(C)(C)[Si](OCCNS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | C25H30N2O5SSi
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | C-(3-aminophenyl)-N-[2-(tert-butyldiphenylsilanyloxy)-ethyl]methanesulfonamide | NC=1C=C(C=CC1)CS(=O)(=O)NCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H32N2O3SSi
